US07863329B2
Step D. 4-Bromomethyl-2,6-dimethyl-4′-trifluoromethyl-biphenyl
To a solution of (2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol (2.22 g, 7.9 mmol) in THF (30 ml) is added PBr3 (3.22 g, 11.9 mmol) in THF (5 ml) and the reaction is allowed to stir at room temperature for about 2 h. The reaction is cooled to 0° C. and ice water is added slowly. The mixture is extracted with ethyl acetate, dried over MgSO4, and concentrated. The resulting residue is purified by silica gel column chromatography, eluting with EtOAc/hexanes to afford 2.2 g of the titled compound as a white solid. 1H-NMR.

reactant | (2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol | 7.9 mmol, 2.22 g | CC1=C(C(=CC(=C1)CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H15F3O
reactant | PBr3 | 11.9 mmol, 3.22 g | P(Br)(Br)Br | Br3P
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Bromomethyl-2,6-dimethyl-4′-trifluoromethyl-biphenyl | 2.2 g | BrCC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C | C16H14BrF3
